US07608622B2
1-[4-(Benzhydrylideneamino)benzyl]-6-(3,4,5-trimethoxyphenyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one (10 mg, 0.0175 mmol) was dissolved in THF (0.5 mL) and 4N aq. HCl (0.3 mL) was added. The mixture was stirred overnight at room temperature, concentrated under reduced pressure, and the resultant residue was purified by silica gel chromatography [EtOAc] to afford 1-(4-aminobenzyl)-6-(3,4,5-trimethoxyphenyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one (1.8 mg, 20% overall yield) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 8.90 (br, 1H), 8.32 (s, 1H), 7.40 (d, J=8.1 Hz, 2H), 7.19 (s, 2H), 6.62 (d, J=8.1 Hz, 2H), 5.08 (s, 2H), 3.99 (s, 6H), 3.92 (s, 3H). MS: 408.1 (M+H).

reactant | 1-[4-(Benzhydrylideneamino)benzyl]-6-(3,4,5-trimethoxyphenyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one | 0.0175 mmol, 10 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC1=CC=C(CN2C(NC=3C2=NC(=CN3)C3=CC(=C(C(=C3)OC)OC)OC)=O)C=C1 | C34H29N5O4
reactant | HCl | 4N, 0.3 mL | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | 1-(4-aminobenzyl)-6-(3,4,5-trimethoxyphenyl)-1,3-dihydroimidazo[4,5-b]pyrazin-2-one | 1.8 mg, 20% | NC1=CC=C(CN2C(NC=3C2=NC(=CN3)C3=CC(=C(C(=C3)OC)OC)OC)=O)C=C1 | C21H21N5O4
